US06518303B2
To a solution of N,O-dimethylhydroxylamine hydrochloride (7.37 g; 75.6 mmoles) and triethylamine (21.8 ml; 151 mmoles) in methylene chloride (150 ml), another solution of 4-(dibenzylsulfamoyl)benzoyl chloride (25 g) in methylene chloride (150 ml) was slowly added and the resulting mixture stirred at room temperature for 16 hours. The solid was filtered off, the solvent removed under reduced pressure and the residual oil purified by column chromatography with silica gel and n-hexane-ethyl acetate 1:1 as eluent. N,O-dimethylamide of 4-(dibenzylsulfamoyl)benzoic acid (22 g) was obtained, m.p. 75° C.

reactant | N,O-dimethylhydroxylamine hydrochloride | 75.6 mmoles, 7.37 g | Cl.CNOC
reactant | triethylamine | 151 mmoles, 21.8 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(dibenzylsulfamoyl)benzoyl chloride | 25 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1)CC1=CC=CC=C1 | C21H18ClNO3S
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-(dibenzylsulfamoyl)benzoic acid | 22 g | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)CC1=CC=CC=C1 | C21H19NO4S
